US07163940B2
To a cold (−78° C.) suspension of 7-chloro-2-(4-fluorophenyl)pyrazolo[1,5-α]pyridine-3-carbaldehyde (1.50 g, 5.47 mmol) in tetrahydrofuran (10 mL) was added 1-propynyl magnesium bromide (12.0 mL, 0.5 M in tetrahydrofuran, 6.02 mmol) dropwise. The reaction mixture was stirred at −78° C. for 1 hour, then at 0° C. for 2 hours. The resultant solution was poured into saturated aqueous sodium bicarbonate and extracted with ethyl acetate. The organic layer was washed with water and brine and the combined organics were dried over magnesium sulfate. Filtration and concentration followed by flash chromatography (4:1 hexanes:ethyl acetate to 1:1 hexanes:ethyl acetate) provided 1-[7-chloro-2-(4-fluorophenyl)pyrazolo[1,5-α]pyridin-3-yl]-2-butyn-1-ol (1.3 g, 72%) as a white solid. Rf 0.44 (2:1 hexanes:ethyl acetate); 1H NMR (CDCl3) δ 7.99 (d, 1H), 7.78 (m, 2H), 7.14 (m, 3H), 6.95 (d, 1H), 5.70 (m, 1H), 2.21 (d, 1H), 1.85 (d, 3H); MS m/z 315 (M+1).

reactant | 7-chloro-2-(4-fluorophenyl)pyrazolo[1,5-α]pyridine-3-carbaldehyde | 5.47 mmol, 1.50 g | ClC1=CC=CC=2N1N=C(C2C=O)C2=CC=C(C=C2)F | C14H8ClFN2O
reactant | 1-propynyl magnesium bromide | 6.02 mmol, 0.5 M, 12.0 mL | C(#CC)[Mg]Br
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
product | 1-[7-chloro-2-(4-fluorophenyl)pyrazolo[1,5-α]pyridin-3-yl]-2-butyn-1-ol | 1.3 g, 72% | ClC1=CC=CC=2N1N=C(C2C(C#CC)O)C2=CC=C(C=C2)F | C17H12ClFN2O
